US07153865B2
8-Bromo-2-Hydroxy-4-(2,3-dichlorophenyl)aminoquinoline
Prepared using general procedure 1; 8-Bromo-2,4-quinolinediol (4 g, 16.66 mmol), 3,4-dichloroaniline (8 g, 49.38 mmol), 2.78 mL of 6 M HCl (16.68 mmol) and 20 mL NMP were irradiated to achieve 200° C. (400 W max) for 30 min. Cooling and precipitation by pouring onto 100 mL water afforded 3.52 g of product (9.16 mmol, 55%). 1H NMR (300 MHz, DMSO): 9.77(s, 2H), 8.95(s, 1H), 8.11(dd, 1H, J=8.48, 0.81 Hz), 7.89(dd, 1H, J=7.67, 0.81 Hz), 7.66(d, 1H, J=8.88 Hz), 7.58(d, 1H, J=2.42 Hz), 7.36(dd, 2H, J=8.48, 2.42 Hz), 7.20(t, 1H, J=8.07 Hz), 5.88(s, 1H).

reactant | 8-Bromo-2,4-quinolinediol | 16.66 mmol, 4 g | BrC=1C=CC=C2C(=CC(=NC12)O)O | C9H6BrNO2
reactant | 3,4-dichloroaniline | 49.38 mmol, 8 g | ClC=1C=C(N)C=CC1Cl | C6H5Cl2N
reactant | HCl | 16.68 mmol, 6 M, 2.78 mL | Cl | ClH
solvent | NMP | 20 mL | CN1CCCC1=O | C5H9NO
product | 8-Bromo-2-Hydroxy-4-(2,3-dichlorophenyl)aminoquinoline | 9.16 mmol, 3.52 g, 55% | BrC=1C=CC=C2C(=CC(=NC12)O)NC1=C(C(=CC=C1)Cl)Cl | C15H9BrCl2N2O
